US09145433B2
2′-(4-Fluoro-3-methylphenyl)-[3,3′-bipyridine]-6-carbonitrile (2.2 g), Pd/C (0.4 g) and conc. HCl (3 mL) in EtOH (100 mL) was hydrogenated in a par shaker at 40 psi overnight. The reaction mixture was filtered through Celite® and concentrated. The concentrate was treated with CH2Cl2 (120 mL) and sat. aq. NaHCO3 (25 mL). Organic layer was separated and the aqueous layer was re-extracted with CH2Cl2 (2×50 ml). Combined organic layers were stirred over anhydrous Na2SO4 for 30 min, filtered, concentrated and dried under high vacuum to obtain thick viscous liquid of (2′-(4-Fluoro-3-methylphenyl)-[3,3′-bipyridin]-6-yl)methanamine (2.1 g, purity 97%). 1H NMR (300 MHz, DMSO-d6): δ 8.66 (dd, J=4.7, 1.6 Hz, 1H), 8.26 (s, 1H), 7.86 (d, J=1.6 Hz, 1H), 7.54 (dd, J=8.0, 2.2 Hz, 1H), 7.48 (dd, J=7.7, 4.8 Hz, 1H), 7.37 (d, J=8.1 Hz, 1H), 7.32 (d, J=8.0 Hz, 1H), 6.97 (dd, J=6.9, 1.5 Hz, 2H), 3.78 (s, 2H), 2.58 (br s, 2H), 2.16 (s, 3H).

reactant | 2′-(4-Fluoro-3-methylphenyl)-[3,3′-bipyridine]-6-carbonitrile | 2.2 g | FC1=C(C=C(C=C1)C1=NC=CC=C1C=1C=NC(=CC1)C#N)C | C18H12FN3
reactant | HCl | 3 mL | Cl | ClH
solvent | EtOH | 100 mL | CCO | C2H6O
catalyst | Pd/C | 0.4 g | [Pd] | Pd
product | (2′-(4-Fluoro-3-methylphenyl)-[3,3′-bipyridin]-6-yl)methanamine | 2.1 g | FC1=C(C=C(C=C1)C1=NC=CC=C1C=1C=NC(=CC1)CN)C | C18H16FN3
